US05824443
14.6 g of sodium hydride and 700 mL of 1,2-dimethoxyethane were placed in a three-neck flask, and while stirring at room temperature, 130.8 g of tetramethylphosphonium bromide was added. After adding one drop of anhydrous ethanol, the mixture was reacted for 4 hours at 70° C. Then 100 g of 4-(N,N-diphenylamino) benzaldehyde was added to the mixture. The temperature was raised to 70° C., and the mixture was reacted for 5 hours. The reaction solution was filtered, and an ether extract of the precipitate and the filtrate were washed in water. Next, the ether solution was dehydrated with calcium chloride, the ether was removed, and the reaction mixture was obtained. This was recrystallized from ethanol, and a needle-form, lemon-yellow vinyltriphenylamine was obtained. The yield was 83.4 g (yield rate of 84.0%).

reactant | sodium hydride | 14.6 g | [H-].[Na+]
reactant | 4-(N,N-diphenylamino) benzaldehyde | 100 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C19H15NO
reactant | 1,2-dimethoxyethane | 700 mL | COCCOC | C4H10O2
catalyst | tetramethylphosphonium bromide | 130.8 g | [Br-].C[P+](C)(C)C
catalyst | ethanol | one drop | C(C)O | C2H6O
product | vinyltriphenylamine | C(=C)C1=C(C=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17N
